US04496560
2-Benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-nicotinoylamino-thiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (9 g) in acetonitrile (134 cc) is treated with p-toluenesulphonic acid (7.6 g) according to the working method described in Example 24, to give 7-amino-2-benzhydryloxycarbonyl-3-(2-nicotinoylamino-thiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (6.43 g) in the form of a cream powder.

reactant | 2-Benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-nicotinoylamino-thiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 9 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)NC(C1=CN=CC=C1)=O)NC(=O)OC(C)(C)C)=O | C34H31N5O6S2
reactant | p-toluenesulphonic acid | 7.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetonitrile | 134 cc | C(C)#N | C2H3N
product | 7-amino-2-benzhydryloxycarbonyl-3-(2-nicotinoylamino-thiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 6.43 g | NC1C2SCC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CN=C(S1)NC(C1=CN=CC=C1)=O | C29H23N5O4S2
